US08193164B2
Intermediate WB 9-((1R,4S)-4-Ethoxycarbonyloxy-cyclopent-2-enyl)-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-9H-purine-2-carboxylic acid methyl ester
9-((1R,4S)-4-Hydroxy-cyclopent-2-enyl)-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-9H-purine-2-carboxylic acid methyl ester (Intermediate WA) is dissolved in THF (dry). Pyridine is added and the reaction mixture is cooled to 0° C. Ethyl chloroformate is added dropwise keeping the temperature below 10° C. The reaction mixture is warmed to RT and stirred for 2 hours. The reaction mixture is reduced in vacuo and portioned between EtOAc and (1 M) HCl(aq). The organics are washed with water, brine, dried (MgSO4) and reduced in vacuo. The resulting residue is columned to give the title compound.

reactant | 9-((1R,4S)-4-Hydroxy-cyclopent-2-enyl)-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-9H-purine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)O)N[C@@H](CC1=CC=CC=C1)CO | C21H23N5O4
reactant | Pyridine | N1=CC=CC=C1 | C5H5N
reactant | Ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | HCl | 1 M | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 9-((1R,4S)-4-Ethoxycarbonyloxy-cyclopent-2-enyl)-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-9H-purine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)OC(=O)OCC)N[C@@H](CC1=CC=CC=C1)CO | C24H27N5O6
